US07196110B2
(3,5-Dichloro-phenyl)-(6,7-dimethoxy-2,4-dihydro-indeno[1,2-c]pyrazol-3-yl)-amine, Compound 19 (Method A)
A mixture of 5,6-dimethoxyindan-1-one, Compound 3a, (4 g, 0.021 mole), 3,5-dichlorophenyl isothiocyanate, Compound 3b, (4.45 g, 0.022 mole) and THF (30 mL) was added to lithium hexamethyldisilane (26.9 mL, 0.269 mole) dropwise at room temperature with stirring. Hydrazine (1.04 mL, 0.032 mole) and acetic acid (1.65 mL) were added to the reaction mixture, which was then stirred at room temperature for 12 hrs. The reaction continued at 75° C. overnight. The resulting organics were first diluted with ethyl acetate (100 mL), then washed with water and brine solution, dried (Na2SO4), and solvent was removed in vacuo. The chemical residues were recrystallized from ethanol. The first and second crops of solid were combined and dissolved in hot CH3CN, to which an equal volume of HCl-ether solution was added to precipitate the title compound (Compound 19), which was collected and dried under vacuum at 60° C. mp>270° C.; MS m/z 376 and 378 (M+H)+; 1HNMR (DMSO-d6): 3.44(s, 2H), 3.83(s, 3H), 3.82(s, 3H),6.93(s, 1H),7.19 (s, 1H), 7.21(s, 1H), 7.35(s, 2H).

reactant | 5,6-dimethoxyindan-1-one | COC=1C=C2CCC(C2=CC1OC)=O | C11H12O3
reactant | 3,5-dichlorophenyl isothiocyanate | ClC=1C=C(C=C(C1)Cl)N=C=S | C7H3Cl2NS
reactant | lithium hexamethyldisilane | 0.269 mole, 26.9 mL | C[Si]([Si](C)(C)C)(C)C.[Li]
reactant | Hydrazine | 0.032 mole, 1.04 mL | NN | H4N2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 1.65 mL | C(C)(=O)O | C2H4O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (3,5-Dichloro-phenyl)-(6,7-dimethoxy-2,4-dihydro-indeno[1,2-c]pyrazol-3-yl)-amine | ClC=1C=C(C=C(C1)Cl)NC1=C2C(=NN1)C1=CC(=C(C=C1C2)OC)OC | C18H15Cl2N3O2
